US05962458
A solution of 2-chloro-6-methyl-4-pyridinecarboxylic acid (2 g, 12 mmol) in ethanol (100 ml) and concentrated sulphuric acid (10 ml) was heated at reflux for 2 hours. The volatiles were removed by evaporation and the residue was dissolved in methylene chloride. The solution was washed with a saturated aqueous sodium hydrogen carbonate solution and brine, dried (MgSO4) and the solvent removed by evaporation. The residue was purified by column chromatography eluting with ethyl acetate/petroleum ether (1/9) to give ethyl 2-chloro-6-methyl-4-pyridinecarboxylate (2 g, 86%).

reactant | 2-chloro-6-methyl-4-pyridinecarboxylic acid | 12 mmol, 2 g | ClC1=NC(=CC(=C1)C(=O)O)C | C7H6ClNO2
reactant | ethanol | 100 ml | C(C)O | C2H6O
solvent | sulphuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
product | ethyl 2-chloro-6-methyl-4-pyridinecarboxylate | 2 g, 86% | ClC1=NC(=CC(=C1)C(=O)OCC)C | C9H10ClNO2
